US06355642B1
6-Acetoxy-2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one
A 2 ml portion of methylene chloride solution of 2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one (94 mg, 0.26 mmol) was cooled to 0° C. and then mixed with 93 mg (0.52 mmol) of m-chloroperbenzoic acid and 21 μl (0.26 mmol) of trifluoroacetic acid. After 2 hours of stirring in the dark at a room temperature, the reaction solution was extracted with chloroform and washed with sodium sulfite and sodium bicarbonate in that order. After drying (Na2SO4), the solvent was evaporated under a reduced pressure, and the thus obtained oily substance was purified by a silica gel column chromatography (20 cc; elution with ethyl acetate-hexane=1:2) to obtain 88 mg of the title compound (89% in yield).

reactant | 2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 0.26 mmol, 94 mg | BrCCCCC12C(NC=3C=CC=C(C13)CCC2)=O | C15H18BrNO
reactant | m-chloroperbenzoic acid | 0.52 mmol, 93 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | trifluoroacetic acid | 0.26 mmol, 21 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-Acetoxy-2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 88 mg, 89% | C(C)(=O)OC1=C2C=3C(C(NC3C=C1)=O)(CCC2)CCCCBr | C17H20BrNO3
